US07851473B2
N-1,2-Benzisoxazol-3-yl-1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperidine-4-carboxamide
To a solution of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperidine-4-carboxylic acid (289 mg, 1.00 mmol) and N,N-dimethylformamide (0.010 ml) in tetrahydrofuran (5 ml) was added in water-bath, oxalyl chloride (0.174 ml, 2.00 mmol), and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure. The residue was added to a solution of 1,2-benzisoxazol-3-amine (134 mg, 1.00 mmol) in pyridine (0.404 ml, 5.00 mmol) under ice-cooling, followed by stirring at room temperature for 1 hour. The solvent was distilled off under reduced pressure. The residue was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product as a solid. The resulting solid was recrystallized from a mixed solvent of hexane and ethyl acetate to give 60.3 mg (14.9%) of the desired product.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperidine-4-carboxylic acid | 1.00 mmol, 289 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCC(CC1)C(=O)O | C14H15N3O2S
reactant | oxalyl chloride | 2.00 mmol, 0.174 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,2-benzisoxazol-3-amine | 1.00 mmol, 134 mg | O1N=C(C2=C1C=CC=C2)N | C7H6N2O
reactant | pyridine | 5.00 mmol, 0.404 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 0.010 ml | CN(C=O)C | C3H7NO
product | N-1,2-Benzisoxazol-3-yl-1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperidine-4-carboxamide | O1N=C(C2=C1C=CC=C2)NC(=O)C2CCN(CC2)C2=NC(=NS2)C2=CC=CC=C2 | C21H19N5O2S
